US08541596B2
N,N-Bis((3,4-dihydro-2H-benzo[b][1,4]dioxepin-9-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 6-(bromomethyl)-3,4-dihydro-1,5-benzodioxepin (535 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.098 g (21.4%); MS m/z: 458.5 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 2.10 (quin, 4H, 3J=5.5 Hz); 4.10 (t, 4H, 3J=5.5 Hz); 4.15 (t, 4H, 3J=5.5 Hz); 4.61 (s, 4H); 6.58-6.60 (m, 2H); 6.76-6.85 (m, 6H); 7.31 (d, 1H, 3J=9.8 Hz); 7.88 (s, 1H); 11.89 (br s, 1H); HPLC (METHOD [A]): rt 16.11 min (92.3%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 6-(bromomethyl)-3,4-dihydro-1,5-benzodioxepin | 2.2 mmol, 535 mg, 2.2 eq. | BrCC1=CC=CC=2OCCCOC21 | C10H11BrO2
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis((3,4-dihydro-2H-benzo[b][1,4]dioxepin-9-yl)methyl)-1H-benzo[d]imidazol-5-amine | O1C2=C(OCCC1)C=CC=C2CN(C2=CC1=C(NC=N1)C=C2)CC2=CC=CC1=C2OCCCO1 | C27H27N3O4
